US07351724B2
8-Phenyl-1-[5-(pyridin-2-yl )-1,3,4-oxad iazol-2-yl]-octan-1-one
Starting with methyl 5-(pyridin-2-yl)-[1,3,4]-oxadiazole-2-carboxylate and 7-bromoheptylbenzene, the title compound (25 mg, 41%) was obtained as a white solid, using a procedure similar to Example 1. 1H NMR (400 MHz, CDCl3) 1.38 (m, 6H), 1.63 (quintet, J=7.3 Hz, 2H), 1.80 (quintet, J=7.0 Hz, 2H), 2.61 (dd, J=7.9, 7.6 Hz, 2H), 3.21 (t, J=7.5 Hz, 2H), 7.16-7.19 (m, 3H), 7.26-7.30 (m, 2H), 7.54 (ddd, J=7.6, 4.7, 0.9 Hz, 1H), 7.94 (td, J=7.8,1.8 Hz, 1H), 8.30 (d, J=7.9 Hz, 1H), 8.85 (d, J=4.7 Hz, 1H); 13C NMR (CDCl3, 100 MHz) 23.6, 28.9, 29.0, 29.1, 31.4, 35.7, 35.9, 40.1, 124.0, 125.6, 126.7, 128.2, 128.4, 137.3, 142.6, 142.7, 150.8, 161.2, 165.1, 187.2; MALDI-FTMS m/z 350.1859 (C21H23N3O2+H+ requires 350.1863).

reactant | methyl 5-(pyridin-2-yl)-[1,3,4]-oxadiazole-2-carboxylate | N1=C(C=CC=C1)C1=NN=C(O1)C(=O)OC | C9H7N3O3
reactant | 7-bromoheptylbenzene | BrCCCCCCCC1=CC=CC=C1 | C13H19Br
product | 8-Phenyl-1-[5-(pyridin-2-yl )-1,3,4-oxad iazol-2-yl]-octan-1-one | 25 mg, 41% | C1(=CC=CC=C1)CCCCCCCC(=O)C=1OC(=NN1)C1=NC=CC=C1 | C21H23N3O2
